US06982268B2
A mixture of 2-chloromethyl-3,5-dimethoxy-pyrazine (140 mg, 0.74 mmol), 2-(1H-imidazol-2-yl)-thiazole (106 mg, 0.70 mmol) and K2CO3 (307 mg, 2.22 mmol) in DMF (10 mL) is stirred at 45° C. for 16 hours. On cooling, the reaction is quenched with saturated NH4Cl (5 mL) and extracted with DCM (3×15 mL). The combined organic layers are dried and solvent removed. PTLC (silica gel) separation (10% MeOH in DCM) gives 170 mg of 3,5-dimethoxy-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)-pyrazine as an oil. 1H NMR (CDCl3) 7.80 (d, 1H), 7.68 (s, 1H), 7.32 (d, 1H), 7.09 (s, 1H), 6.98 (s, 1H), 5.97 (s, 2H), 3.92 (s, 3H) 3.87 (s, 3H). E. 3-Chloro-2-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-methoxy-pyrazine (Compound 6) 1. Preparation of 3-Chloro-5-methoxy-pyrazine-2-carbaldehyde

reactant | 2-chloromethyl-3,5-dimethoxy-pyrazine | 0.74 mmol, 140 mg | ClCC1=NC=C(N=C1OC)OC | C7H9ClN2O2
reactant | 2-(1H-imidazol-2-yl)-thiazole | 0.70 mmol, 106 mg | N1C(=NC=C1)C=1SC=CN1 | C6H5N3S
reactant | K2CO3 | 2.22 mmol, 307 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3,5-dimethoxy-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)-pyrazine | 170 mg | COC=1C(=NC=C(N1)OC)CN1C(=NC=C1)C=1SC=CN1 | C13H13N5O2S
